US04841067
To a suspension of 200 mg of N-[(+)-2-(1-naphthylmethyl)-3-(phenethylcarbamoyl)propionyl]-L-histidine hydrazide in 5 ml of N,N-dimethylformamide were added successively dropwise 0.25 ml of a dry 5.1N-hydrogen chloride in N,N-dimethyformamide solution and 0.07 ml of isoamyl nitrite with stirring at -20° C. After disappearance of hydrazide compound, the reaction mixture was cooled to -30° C., and neutralized by adding 0.2 ml of triethylamine to prepare a solution of N-[(+)-2-(1-naphthylmethyl)-3-(phenethylcarbamoyl)-propionyl]-L-histidine azide. The azide solution prepared was added dropwise to 110 mg of isoamyl (2RS,3S)-3-amino-2-hydroxy-5-methylhexanoate and 0.1 ml of triethylamine in 2 ml of dry N,N-dimethylformamide under ice-cooling, and the mixture was stirred for 16 hours. The reaction mixture was evaporated under reduced pressure, and a 5% aqueous sodium bicarbonate solution was added to the residue. The mixture was extracted with ethyl acetate, and the ethyl acetate layer was dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The pressure was purified by silica gel column chromatography (eluent: chloroform/ethanol=10/1 by volume) to obtain 52 mg of isoamyl (2RS,3S)-3-{N-[(+)-2-(1-naphthylmethyl)-3-(phenethylcarbamoyl)propionyl]-L-histidyl}amino-2-hydroxy-5-methylhexanoate as a white powder.

reactant | N-[(+)-2-(1-naphthylmethyl)-3-(phenethylcarbamoyl)propionyl]-L-histidine hydrazide | 200 mg | C1(=CC=CC2=CC=CC=C12)CC(C(=O)N(N)C([C@@H](N)CC1=CNC=N1)=O)CC(NCCC1=CC=CC=C1)=O | C29H32N6O3
reactant | hydrogen chloride | Cl | ClH
reactant | isoamyl nitrite | 0.07 ml | N(=O)OCCC(C)C | C5H11NO2
reactant | N-[(+)-2-(1-naphthylmethyl)-3-(phenethylcarbamoyl)-propionyl]-L-histidine azide | C1(=CC=CC2=CC=CC=C12)CC(C(=O)N[C@@H](CC1=CNC=N1)C(=O)N=[N+]=[N-])CC(NCCC1=CC=CC=C1)=O | C29H29N7O3
reactant | azide | [N-]=[N+]=[N-]
reactant | isoamyl (2RS,3S)-3-amino-2-hydroxy-5-methylhexanoate | 110 mg | N[C@H](C(C(=O)OCCC(C)C)O)CC(C)C | C12H25NO3
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 0.1 ml | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 0.2 ml | C(C)N(CC)CC | C6H15N
product | isoamyl (2RS,3S)-3-{N-[(+)-2-(1-naphthylmethyl)-3-(phenethylcarbamoyl)propionyl]-L-histidyl}amino-2-hydroxy-5-methylhexanoate | 52 mg | C1(=CC=CC2=CC=CC=C12)CC(C(=O)N[C@@H](CC1=CNC=N1)C(=O)N[C@H](C(C(=O)OCCC(C)C)O)CC(C)C)CC(NCCC1=CC=CC=C1)=O | C41H53N5O6
